US06803369B1
[2R]-1-Heptyl-4-[2-(R,S)-hydroxy-2-(6-methoxyquinolin-4-yl)ethyl]-2-hydroxymethylpiperazine
[2R]-Piperazine-2-carboxylic acid di-(R)-camphor-10-sulfonic acid salt was converted to [2R]-4-t-butoxycarbonyl-1-heptyl-2-hydroxymethylpiperazine by the method of Example 1(b-e). Deprotection of a sample (0.38 g ) with trifluoroacetic acid in dichloromethane, followed by reaction with Example 1(f)(0.36 g) by the method of Example 1(g) gave an oil (0.275 g).

reactant | [2R]-Piperazine-2-carboxylic acid di-(R)-camphor-10-sulfonic acid salt | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.[C@@]21(C(=O)CC(CC2)C1(C)C)CS(=O)(=O)O.N1[C@H](CNCC1)C(=O)O
reactant | [2R]-4-t-butoxycarbonyl-1-heptyl-2-hydroxymethylpiperazine | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)CCCCCCC)CO | C17H34N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [2R]-1-Heptyl-4-[2-(R,S)-hydroxy-2-(6-methoxyquinolin-4-yl)ethyl]-2-hydroxymethylpiperazine | 0.275 g | C(CCCCCC)N1[C@H](CN(CC1)CC(C1=CC=NC2=CC=C(C=C12)OC)O)CO | C24H37N3O3
